US06897208B2
A solution of sodium (1.75 g) in ethanol (100 ml) was treated with a mixture of diethyl oxalate (9.41 ml) and cyclohexanone (7.18 ml). The mixture was heated to 60° C. for 5 hours then cooled and then evaporated to yield oxo-(2-oxo-cyclohexyl)-acetic acid ethyl ester as a brown foam (16.635 g). LC-MS (METHOD B): RT=3.10 minutes; 197 (M−H)−. (b) 5-Methyl-2,4-dioxo-hexanoic acid ethyl ester

reactant | sodium | 1.75 g | [Na] | Na
reactant | diethyl oxalate | 9.41 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | cyclohexanone | 7.18 ml | C1(CCCCC1)=O | C6H10O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | oxo-(2-oxo-cyclohexyl)-acetic acid ethyl ester | 16.635 g | C(C)OC(C(C1C(CCCC1)=O)=O)=O | C10H14O4
